US06004991
N-[2-(1-acetyl-6-chloro-5-methoxyindolin-3-yl) ethyl]acetamide (17)
To a solution of N-[2-(1-acetyl-5-methoxyindolin-3-yl)ethyl]acetamide (0.29 mmol) in acetonitrile (1.5 ml) is added bis(trifluoroacetoxyiodobenzene) (PIFA 1.2 eq) and the medium is left stirring for 1 min at room temperature. Saturated sodium chloride solution (0.5 ml) is next added and, after 15 min, the mixture is diluted with dichloromethane (10 ml) and dried over magnesium sulphate. The crude product obtained after evaporation is chromatographed on a column of flash silica (5/95 methanol/dichloromethane) and N-[2-(l-acetyl-6-chloro-5-methoxyindolin-3-yl)ethyl]acetamide (70 mg) is thus obtained.

reactant | N-[2-(1-acetyl-5-methoxyindolin-3-yl)ethyl]acetamide | 0.29 mmol | C(C)(=O)N1CC(C2=CC(=CC=C12)OC)CCNC(C)=O | C15H20N2O3
reactant | sodium chloride | 0.5 ml | [Cl-].[Na+]
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(1-acetyl-6-chloro-5-methoxyindolin-3-yl) ethyl]acetamide | C(C)(=O)N1CC(C2=CC(=C(C=C12)Cl)OC)CCNC(C)=O | C15H19ClN2O3
